US07829665B2
(1R,2S)-ethyl 1-((2S,4R)-1-((S)-5-(allyloxy)-2-(tert-butoxycarbonylamino)pentanoyl)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate (3.55 g, 6.78 mmol) in toluene (750 mL) was degassed by bubbling a stream of nitrogen through the reaction for 1 hr at rt. (5-chloro-2-isopropoxybenzylidene)(1,3-dimesitylimidazolidin-2-yl)ruthenium(V)chloride (0.090 g, 0.14 mmol) was added to the mixture and the mixture was heated to 68° C. (oil bath) and stirred at this temperature for 4 hrs. After removal of solvent, the residue was purified by chromatography (Ethyl acetate:MeOH=40:1) to give (2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(tert-butoxycarbonylamino)-2-hydroxy-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecine-14a-carboxylate as off white solid (0.84 g, 25%). MS: Calcd.: 495; Found: [M+H]+ 496. 1H NMR (400 MHz, d6-DMSO) δ8.42 (s, 1H), 6.89 (d, J=7.6 Hz, 1H), 5.48-5.60 (m, 2H), 5.10 (d, J=3.6 Hz, 1H), 4.41 (s, 1H), 4.27 (m, 2H), 4.17 (m, 1H), 4.02 (m, 2H), 3.72 (m, 2H), 3.62 (m, 1H), 3.35 (m, 1H), 3.28 (m, 1H), 2.42 (m, 1H), 1.98 (m, 2H), 1.78 (m, 1H), 1.62 (m, 1H), 1.52 (m, 2H), 1.42 (m, 2H), 1.36 (s, 9H), 1.13 (t, J=7.2 Hz, 3H).

reactant | (1R,2S)-ethyl 1-((2S,4R)-1-((S)-5-(allyloxy)-2-(tert-butoxycarbonylamino)pentanoyl)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate | 6.78 mmol, 3.55 g | C(C=C)OCCC[C@@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OCC)NC(=O)OC(C)(C)C | C26H41N3O8
solvent | toluene | 750 mL | C1(=CC=CC=C1)C | C7H8
catalyst | (5-chloro-2-isopropoxybenzylidene)(1,3-dimesitylimidazolidin-2-yl)ruthenium(V)chloride | 0.14 mmol, 0.090 g | ClC=1C=CC(=C(C=[Ru](C2N(CCN2C2=C(C=C(C=C2C)C)C)C2=C(C=C(C=C2C)C)C)(Cl)Cl)C1)OC(C)C
product | (2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(tert-butoxycarbonylamino)-2-hydroxy-5,16-dioxo-2,3,5,6,7,8,9,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(e)pyrrolo[2,1-i][1,7,10]oxadiazacyclopentadecine-14a-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1C(N2[C@H](C(N[C@]3([C@H](\C=C/COCCC1)C3)C(=O)OCC)=O)C[C@H](C2)O)=O | C24H37N3O8
